US05849911
31b) 1-{4-[2-(1-Methyl-1-phenyl-ethyl)-2H-tetrazol-5-yl]-phenyl}-4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)-iso-leucyl)amino-6-phenyl-2-azahexane hydrochloride
Under a nitrogen atmosphere, 317 mg (0.43 mmol) of 1-{4-[2-(1-methyl-1-phenyl-ethyl)-2H-tetrazol-5-yl]-phenyl}-4(S)-hydroxy-2-(tert-butoxycarbonyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-iso-leucyl)amino-6-phenyl-2-azahexane in 15 ml of acetonitrile and 15 ml of 2N HCl are stirred at 50° C. for 20 hours and worked up analogously to Example 25h to form the title compound: HPLC20-100 : tRet =14.4.

reactant | 1-{4-[2-(1-methyl-1-phenyl-ethyl)-2H-tetrazol-5-yl]-phenyl}-4(S)-hydroxy-2-(tert-butoxycarbonyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-iso-leucyl)amino-6-phenyl-2-azahexane | 0.43 mmol, 317 mg | CC(C)(C1=CC=CC=C1)N1N=C(N=N1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)[C@@H](C)CC)=O)O)NC(=O)OC(C)(C)C | C40H54N8O6
reactant | HCl | 2N, 15 ml | Cl | ClH
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 1-{4-[2-(1-Methyl-1-phenyl-ethyl)-2H-tetrazol-5-yl]-phenyl}-4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)-iso-leucyl)amino-6-phenyl-2-azahexane hydrochloride | Cl.CC(C)(C1=CC=CC=C1)N1N=C(N=N1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)[C@@H](C)CC)=O)O)N | InChI=1S/C35H46N8O4.ClH/c1-6-24(2)31(38-34(46)47-5)33(45)37-29(21-25-13-9-7-10-14-25)30(44)23-42(36)22-26-17-19-27(20-18-26)32-39-41-43(40-32)35(3,4)28-15-11-8-12-16-28;/h7-20,24,29-31,44H,6,21-23,36H2,1-5H3,(H,37,45)(H,38,46);1H/t24-,29-,30-,31-;/m0./s1
